US09399623B2
6-Chloro-2-(tetrahydro-pyran-4-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide (47)
The title compound was synthesized according to the procedure described in example 126 using 6-chloro-2-(3,6-dihydro-2H-pyran-4-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide, palladium on carbon and triethylsilane. 1H NMR (400 MHz, DMSO-d6): δ 8.80 (t, J=5.92 Hz, 1H), 7.97-8.04 (m, 2H), 7.77 (d, J=9.00 Hz, 1H), 7.62 (d, J=8.76 Hz, 1H), 3.96-4.00 (m, 2H), 3.45-3.52 (m, 2H), 3.25-3.27 (m, 2H), 3.11-3.17 (m, 1H), 2.01-2.04 (m, 2H), 1.80-1.90 (m, 7H), 1.74-1.77 (m, 2H), 1.23-1.33 (m, 2H). m/z: 423 [M+H]+

reactant | 6-chloro-2-(3,6-dihydro-2H-pyran-4-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C=1CCOCC1)F | C22H23ClF2N2O2
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
catalyst | palladium on carbon | [Pd] | Pd
product | 6-Chloro-2-(tetrahydro-pyran-4-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CCOCC1)F | C22H25ClF2N2O2
